US04510331
A 500-ml three-necked flask equipped with stirrer, thermometer and dropping funnel was charged with 400 ml of 25% aqueous ammonia, and the flask contents were maintained at 15° C. Thereto was added 50 g (0.22 mole) of molten 8-bromocaprylic acid over 30 minutes. After the addition, stirring was continued for further 10 hours. Thereafter, the ammonia was removed by warming the liquid reaction mixture. The mixture was then cooled and adjusted to pH 6.0 with 0.1N hydrochloric acid. The resulting crystalline precipitate was collected by filtration. The precipitate and the second crop obtained by concentration the mother liquor were combined and recrystallized from water to give 30 g of 8-aminocaprylic acid (m.p. 193°-195° C.). The yield was 86% based on the charged 8-bromocaprylic acid.

reactant | 8-bromocaprylic acid | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | hydrochloric acid | 0.1N | Cl | ClH
reactant | ammonia | 400 ml | N | H3N
product | 8-aminocaprylic acid | 30 g, yield was 86% | NCCCCCCCC(=O)O | C8H17NO2
